US04312943
(2) Preparation of Boc-Met(O)-Asn-Thr-OBzl
To 50.0 g of Boc-Asn-Thr-OBzl is added 170 ml of TFA and the mixture is shaken at room temperature for 30 minutes. The solution is concentrated and treated with 500 ml of diethyl ether. The resultant powder is collected by filtration and dried. It is dissolved in 400 ml of THF, and under ice-cooling 20 ml of TEA is added. To this solution is added Boc-Met(O)-ONB (prepared by dissolving 31.3 g of Boc-Met(O).OH and 23.3 g of HONB in 200 ml of THF, adding 26.8 g of DCC under ice-cooling and stirring the mixture for 4 hours). The mixture is stirred for 15 hours, after which time the solvent is distilled off under reduced pressure. To the residue are added ethyl acetate (200 ml) and ether (200 ml), and the resultant powders are collected by filtration and reprecipitated from acetonitrile. Yield 48.5 g (72.0%), m.p. 145°-147° C., [α]D23 -6.5° (c=1.1, DMF), Rf1 =0.19.

reactant | Boc-Asn-Thr-OBzl | 50.0 g | N([C@@H](CC(N)=O)C(=O)N[C@@H]([C@H](O)C)C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C20H29N3O7
reactant | TFA | 170 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | Boc-Met(O) | 31.3 g | N([C@@H](CCS(=O)C)C(=O)O)C(=O)OC(C)(C)C | C10H19NO5S
reactant | HONB | 23.3 g | C1C2C=CC1C3C2C(=O)N(C3=O)O | C9H9NO3
reactant | DCC | 26.8 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | Boc-Met(O)-Asn-Thr-OBzl | N([C@@H](CCS(=O)C)C(=O)N[C@@H](CC(N)=O)C(=O)N[C@@H]([C@H](O)C)C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C25H38N4O9S
